US04695569
To a stirred mixture of 4.1 parts of 3-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-2,3-dihydro-6-methyl-2-thioxothieno[2,3-d]pyrimidin-4(1H)-one, 5.6 parts of potassium hydroxide, 81 parts of ethanol and 8 parts of water were added dropwise 60 parts of a hydrogen peroxide solution 3%. The whole was stirred overnight. The reaction mixture was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2-propanone. The product was filtered off and dried, yielding 2.2 parts (55%) of 3-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-6-methylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione; mp. 187.6° C. (compound 135).

reactant | 3-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-2,3-dihydro-6-methyl-2-thioxothieno[2,3-d]pyrimidin-4(1H)-one | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCN2C(NC1=C(C2=O)C=C(S1)C)=S | C28H29FN6OS2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen peroxide | OO | H2O2
solvent | water | O | H2O
product | 3-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-6-methylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 55% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCN2C(NC1=C(C2=O)C=C(S1)C)=O | C28H29FN6O2S
